US06018056
Preparation of [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thien-3-yl]-[4-[2-(1-Piperidinyl)ethoxy]phenyl] Methanone
To a solution of 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester (202 mg, 0.615 mmol) in tetrahydrofuran (5 ml) under nitrogen at 5° C. is added, dropwise over 2 min via syringe a solution of 4-[2-(1-piperidinyl)ethoxy]phenylmagnesium bromide (1.0 ml of 0.76 M solution, 0.76 mmol). Cooling is removed, and the reaction is allowed to stir at room temperature for 48 hours. It is then quenched by addition of saturated aqueous ammonium chloride (2 ml), and partitioned between methylene chloride and water. The organic phase is separated, dried over magnesium sulfate, filtered and concentrated to an oil, which is chromatographed on silica (5:1:1 hexanes:dichloromethane:triethylamine) to afford recovered starting material (46.0 mg, 23%) and title compound. The latter is further purified by dissolution in methylene chloride, followed by washing with 1 N hydrochloric acid, then 1 N sodium hydroxide. Drying over magnesium sulfate, filtration and concentration furnished 97.4 mg of title compound (0.194 mmol, 32%, 41% based on recovered starting material). IR (CHCl3): 2932, 1647, 1597, 1475, 1252, 1163, 1029, 828 cm-1 ; 1H NMR (CDCl3) δ7.75 (d, 2H, J=8.7), 7.51 (d, 1H, J=8.7), 7.31 (m, 3H), 6.94 (dd, 1H, J=9.0, 2.4), 6.74 (m, 4 H), 4.07 (t, 2H, J=6.0), 3.87 (s, 3H), 3.73 (s, 3H), 2.72 (t, 2H, J=6.0), 2.47 (m, 4 H), 1.58 (m, 4 H), 1.42 (m, 2H); 13C NMR (CDCl3) d 193.2, 163.1, 159.8, 157.7, 142.5, 140.1, 134.1, 132.4, 130.7, 130. 5, 130.3, 126.1, 124.1, 114.8, 114.3, 114.1, 104.6, 66.3, 57.8, 55.7, 55.3, 55.2, 26.0, 24.2. Anal. Calcd. for C30H31NO4S: C, 71.83; H, 6.23; N, 2.79; S, 6.39. Found: C, 71.56; H, 6.27; N, 2.82; S, 6.26.

reactant | 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester | 0.615 mmol, 202 mg | COC(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C18H16O4S
reactant | 4-[2-(1-piperidinyl)ethoxy]phenylmagnesium bromide | 0.76 mmol, 0.76 M, 1.0 ml | N1(CCCCC1)CCOC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thien-3-yl]-[4-[2-(1-Piperidinyl)ethoxy]phenyl] Methanone | 0.194 mmol, 97.4 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
